US06573391B1
Ethyl (S)-(−)-2-allyloxy-propionate (x=1, R1=Me, R2=H, R3=Et):
7.08 g (60 mmol) of ethyl (S)-(−)-lactate are introduced into 120 ml of cyclohexane, and 25.0 g (120 mmol) of allyl trichloroacetimidate, dissolved in 30 ml of cyclohexane, are added thereto. 0.55 ml (6 mmol) of trifluoromethanesulfonic acid are then added and the mixture is stirred for 16 h. When the reaction is complete, the precipitated trichloroacetamide is filtered off with suction and washed with cyclohexane. The filtrate is washed with saturated NaHCO3 solution, after which the organic phase is dried over Na2SO4, filtered and evaporated on a rotary evaporator. Flash-chromatographic purification (cyclohexane/EtOAc=10:1; Rf=0.27) gives 6.9 g (72%) of a colorless liquid.

reactant | ethyl (S)-(−)-lactate | 60 mmol, 7.08 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | allyl trichloroacetimidate | 120 mmol, 25.0 g | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
reactant | trifluoromethanesulfonic acid | 6 mmol, 0.55 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | cyclohexane | 30 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 120 ml | C1CCCCC1 | C6H12
product | Ethyl (S)-(−)-2-allyloxy-propionate | 6.9 g, 72% | C(C=C)O[C@H](C(=O)OCC)C | C8H14O3
